US04859229
In an analogous manner, starting from ethyl 4-chloro-2-fluorocarbanilate and ethyl 3-aminocrotonate there is obtained 3-(4-chloro-2-fluorophenyl)-6-methyl-2,4(1H,3H) -pyrimidinedione. m.p. >220° C.; mass spectrum (m/e): 254 (M+), 235, 219, 17, 143, 108, 83, 68, 42;

reactant | ethyl 4-chloro-2-fluorocarbanilate | ClC1=CC(=C(NC(OCC)=O)C=C1)F | C9H9ClFNO2
reactant | ethyl 3-aminocrotonate | N\C(=C/C(=O)OCC)\C | C6H11NO2
product | 3-(4-chloro-2-fluorophenyl)-6-methyl-2,4(1H,3H) -pyrimidinedione | ClC1=CC(=C(C=C1)N1C(NC(=CC1=O)C)=O)F | C11H8ClFN2O2
